US07071216B2
The mixture of (4-bromophenyl)(5-methoxybenzoxazol-2-yl)amine and hydrobromic acid (48%) was subjected to the microwave at 150° C. for 6 mins to yield 2-[(4-bromophenyl)amino]benzoxazol-5-ol. MS: MH+=305

reactant | (4-bromophenyl)(5-methoxybenzoxazol-2-yl)amine | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)OC | C14H11BrN2O2
reactant | hydrobromic acid | Br | BrH
product | 2-[(4-bromophenyl)amino]benzoxazol-5-ol | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)O | C13H9BrN2O2
